US06953790B2
Step D. 2-Amino-3-[(1-t-butoxycarbonylpiperidin-4-yl)amino)-6-methoxypyridine
Sodium triacetoxyborohydride (3.39 g, 16.0 mmol) was added to a solution of 2,3-diamino-6-methoxypyridine (2.23 g, 16.0 mmol) and N-(t-butoxycarbonyl)-4-piperidone (7.66 g, 38.4 mmol) in dichloroethane (50 mL) at room temperature. The reaction was quenched with water (50 mL) and stirred overnight, then extracted with chloroform and washed with 5% aqueous sodium hydroxide, water and saturated sodium chloride solution. After drying over sodium sulfate, the solution was filtered and evaporated to give the crude product. This was purified by chromatography, where the more polar product was isolated (silica gel, 50% ethyl acetate hexane, Rf=0.36), to give the title compound. MS 323 (M+1). 1H NMR (500 MHz, CDCl3) δ 7.99 (d, J-8 Hz, 1H), 6.05 (d, J=8 Hz, 1H), 4.45 (br s), 4.03 (br s), 3.83 (s, 3H), 3.15 (m, 1H), 2.86 (m, 2H), 1.91 (d, J=12 Hz, 2H), 1.5 (br s, 11H), 1.26 (br s, 2H).

reactant | Sodium triacetoxyborohydride | 16.0 mmol, 3.39 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 2,3-diamino-6-methoxypyridine | 16.0 mmol, 2.23 g | NC1=NC(=CC=C1N)OC | C6H9N3O
reactant | N-(t-butoxycarbonyl)-4-piperidone | 38.4 mmol, 7.66 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | 2-Amino-3-[(1-t-butoxycarbonylpiperidin-4-yl)amino)-6-methoxypyridine | NC1=NC(=CC=C1NC1CCN(CC1)C(=O)OC(C)(C)C)OC | C16H26N4O3
